US04927814
3-(N-Cyclohexyl-N-methylamino)-1-hydroxy-propane-1,1-diphosphonic acid.
15 g. 3-N-Cyclohexyl-N-methylaminopropionic acid (prepared from N-cyclohexyl-N-methylamine (commercially available) and methyl acrylate in toluene; yield of ester 76% of theory, m.p. 131°-134° C., yield of acid 92% of theory, m.p. 101°-105° C.) are heated to 80° C. with 13.3 g. phosphorous acid. The melt is mixed with 14.1 ml. phosphorus trichloride and kept at the same temperature for 16 hours. 240 ml. water are then added thereto and the reaction mixture is stirred for 1 day at 100° C. It is then filtered, the filtrate is concentrated in a vacuum and the oil obtained is poured into 1 litre of acetone, crystallisation thereby commencing. The crystals are dissolved in water and purified by ion exchanger chromatography in the manner described in Example 1. Yield 4.5 g. (16.9% of theory) as monohydrate; m.p. 142° C. with sintering, 182° C. (decomp.); Mrel =0.3.

reactant | N-cyclohexyl-N-methylamine | C1(CCCCC1)NC | C7H15N
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | acetone | 1 litre | CC(=O)C | C3H6O
product | 3-(N-Cyclohexyl-N-methylamino)-1-hydroxy-propane-1,1-diphosphonic acid | C1(CCCCC1)N(C)CCC(P(O)(=O)O)(P(O)(=O)O)O | C10H23NO7P2
